US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.97 g, 3.00 mmol) and furan-2-carbonyl chloride (0.39 g, 3.00 mmol) in CH2Cl2 (20 mL), was added DIPEA (1.05 mL, 6.00 mmol) at room temperature under nitrogen. After 18 h, the product was isolated by filtration, washed with CH2Cl2 (10 mL) and dried in vacuo to give furan-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.86 g, 75% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 2.11 min (96.16%); mp: 180-182° C.; 1H NMR (DMSO-d6) δ 1.94-2.17 (m, 1H, CHH), 2.53-2.70 (m, 2H, CHH, CHH), 2.77-3.02 (m, 1H, CHH), 4.59 (d, J=6.0 Hz, 2H, CH2), 5.15 (dd, J=5.4, 12.7 Hz, 1H, CH), 6.65 (dd, J=1.8, 3.5 Hz, 1H, Ar), 7.15 (d, J=3.6 Hz, 1H, Ar), 7.74-7.85 (m, 2H, Ar), 7.85-7.97 (m, 2H, Ar), 9.12 (t, J=6.1 Hz, 1H, NH), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.99, 30.93, 41.87, 48.99, 111.93, 113.86, 121.97, 123.54, 129.81, 131.59, 133.44, 145.28, 147.39, 147.52, 157.93, 166.97, 167.10, 169.80, 172.72; LCMS: MH=382; Anal Calcd for C19H15N3O6+0.1H2O: C, 59.56; H, 4.00; N, 10.97. Found: C, 59.26; H, 3.45; N, 10.80.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.00 mmol, 0.97 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | furan-2-carbonyl chloride | 3.00 mmol, 0.39 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | DIPEA | 6.00 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | furan-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.86 g, 75% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)C=1OC=CC1)=O)=O | C19H15N3O6
